US07268232B2
4-Pyrrolidin-1-ylnaphthalene-1-carbonitrile (136BG65-3)
1-Cyano-4-fluoronaphthalene (2.0 g, 11.7 mmol) was transferred to a 25 mL flask and pyrrolidine (4.0 mL) was added. The reaction mixture was stirred for 15 min where after the product precipitated out. The reaction mixture was concentrated in vacuo. The solid was then re-crystallized with MeOH and the crystals washed with EtOH. Yield: 1.6 g (62%).

reactant | 1-Cyano-4-fluoronaphthalene | 11.7 mmol, 2.0 g | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | pyrrolidine | 4.0 mL | N1CCCC1 | C4H9N
product | 4-Pyrrolidin-1-ylnaphthalene-1-carbonitrile | N1(CCCC1)C1=CC=C(C2=CC=CC=C12)C#N | C15H14N2
